US08334295B2
3-(5-Isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-quinoline:
In a 5 mL microwave reaction tube, trifluoro-methanesulfonic acid 5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl ester (30 mg, 0.091 mmol), 3-quinoline boronic acid (19 mg, 1.2 eq.) and Pd(dppf)2Cl2 (7.4 mg, 10%) were mixed with 2 mL DME and 0.18 mL 2M aqueous Na2CO3 (4 eq.). The reaction mixture was heated in microwave at 130° C. for 40 minutes. The reaction mixture was concentrated down and purified by reverse phase prep HPLC (MeCN/water) to give a white powder (14 mg, 50%). LC-MS shows 310.2 (M+1).

reactant | trifluoro-methanesulfonic acid 5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl ester | 0.091 mmol, 30 mg | C(C)(C)C=1C(=NC(=NC1OC)OC)OS(=O)(=O)C(F)(F)F | C10H13F3N2O5S
reactant | 3-quinoline boronic acid | 19 mg, 1.2 eq. | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
reactant | Na2CO3 | 2M, 0.18 mL, 4 eq. | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(dppf)2Cl2 | 7.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DME | 2 mL | COCCOC | C4H10O2
product | 3-(5-Isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-quinoline | 14 mg, 50% | C(C)(C)C=1C(=NC(=NC1OC)OC)C=1C=NC2=CC=CC=C2C1 | C18H19N3O2
